US07084148B2
4-[4-(Methylsulfonyl)phenyl]-N-methyl-N-tetrahydro-2H-pyran-4-yl-6-(trifluoromethyl)pyrimidin-2-amine
A solution of 4-[4-(methylsulfonyl)phenyl]-N-tetrahydro-2H-pyran-4-yl-6-(trifluoromethyl)pyrimidin-2-amine (0.05 g) in dry dimethylformamide (2 ml) was treated with sodium hydride (0.007 g, 60% in mineral oil) and the mixture stirred at ambient temperature for 30 minutes. Iodomethane (0.01 ml) was added and the mixture stirred overnight. The reaction mixture was concentrated in vacuo and the residue partitioned between dichloromethane (20 ml) and water (20 ml). The organic layer was purified by passing through a silica bond elute column and eluting with dichloromethane. Concentration of the eluent gave the title compound as a yellow solid (0.031 g).

reactant | 4-[4-(methylsulfonyl)phenyl]-N-tetrahydro-2H-pyran-4-yl-6-(trifluoromethyl)pyrimidin-2-amine | 0.05 g | CS(=O)(=O)C1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)NC1CCOCC1 | C17H18F3N3O3S
reactant | sodium hydride | 0.007 g | [H-].[Na+]
reactant | Iodomethane | 0.01 ml | IC | CH3I
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-[4-(Methylsulfonyl)phenyl]-N-methyl-N-tetrahydro-2H-pyran-4-yl-6-(trifluoromethyl)pyrimidin-2-amine | 0.031 g | CS(=O)(=O)C1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)N(C1CCOCC1)C | C18H20F3N3O3S
